US04168388
A solution of 390 g. of 4-trifluoromethylphenyl benzyl ether in 3580 ml. of ethanol was placed in a low pressure hydrogenation vessel along with 30 g. of 5 percent palladium-on-carbon. An initial hydrogen pressure of 60 psi was used and the solution was hydrogenated at room temperature until the theoretical uptake of hydrogen had been achieved--about 2 hours. The catalyst was removed by filtration. Concentration of the filtrate yielded 4-trifluoromethylphenol, distilling in the range 51°-54° C. at 6 torr. Yield=212 gms. (84.5 percent).

reactant | 4-trifluoromethylphenyl benzyl ether | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(F)(F)F | C14H11F3O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4-trifluoromethylphenol | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
